US08871796B2
N-ethyl-N-(trifluoro-λ4-sulfanyl)ethanamine (DAST, 0.020 mL, 0.15 mmol, 1.3 equiv) was added to a solution of N-[1-(3-{1-ethyl-5-[4-(1-hydroxyethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide (62 mg, 0.12 mmol, 1 equiv) in dichloromethane (1.2 mL) at −78° C. The reaction mixture was stirred at −78° C. for 5 minutes, then saturated sodium hydrogencarbonate was added. The crude mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, and the washed solution was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography (hexanes, grading to 50% ethyl acetate-hexanes) to afford N-[1-(3-{1-ethyl-5-[4-(1-fluoroethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide (40 mg, 64%). Calcd (M+1)+: 514.2. Found: 514.1.

reactant | N-ethyl-N-(trifluoro-λ4-sulfanyl)ethanamine | 0.15 mmol, 0.020 mL, 1.3 equiv | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | N-[1-(3-{1-ethyl-5-[4-(1-hydroxyethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide | 0.12 mmol, 62 mg, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(C)O)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C24H28F3N3O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1.2 mL | ClCCl | CH2Cl2
product | N-[1-(3-{1-ethyl-5-[4-(1-fluoroethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)-1-methylethyl]-2,2,2-trifluoroethanesulfonamide | 40 mg, 64% | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(C)F)C=1C=C(C=CC1)C(C)(C)NS(=O)(=O)CC(F)(F)F | C24H27F4N3O3S
